US07662771B2
5-[4-(2-Methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid
Combine 5-[4-(2-methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (2.75 g, 7.8 mmol) with THF (3 mL), EtOH (3 mL) and 1N NaOH (20 mL) and stir at room temperature until hydrolysis is complete. Concentrate the mixture and dilute the residue with water and adjust to pH 3.0-3.5 with aq HCl. Extract the mixture with EtOAc and dry the extracts over Na2SO4 before concentrating. Chromatograph the residue over silica gel (EtOAc) to allow for recovery of 5-[4-(2-methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid (2.16 g, 82%). MS (ES): (M+1)+ 339.2, 340.3.

reactant | 5-[4-(2-methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 7.8 mmol, 2.75 g | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)NS(=O)(=O)C)=O | C16H20N2O5S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 5-[4-(2-Methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid | CS(=O)(=O)NC1=C(C=CC=C1)C=1N=C(OC1)CCCCC(=O)O | C15H18N2O5S
